US06784167B2
(±)-(4R*,5R*)-5-[(1S*)Hydroxy(5-phenyl(2-thienyl))methyl]-4-(4-iodophenyl)-1-methylpyrrolidin-2-one prepared as described in Example 21, step 1, (0.100 g, 0.204 mmol), Pd(PPh3)4 (0.025 g, 0.02 mmol) and 4-flourophenylboronic acid (0.037 g, 0.26 mmol) were stirred in anhyd. DME (1 mL). A 1M solution of Na2CO3 (0.55 mL, 0.55 mmol) in water was added and the resulting mixture was heated at the reflux temperature for 18 h. The reaction was cooled to room temperature and diluted with water. The resulting mixture was extracted with EtOAc, dried (MgSO4) and concentrated under reduced pressure. The crude product was purified by flash chromatography (75% EtoAc/hex) to yield (±)-(4R*,5R*)-5-[(1S*)hydroxy(5-phenyl(2-thienyl))methyl]-4-[4-(4-fluorophenyl)phenyl]-1-methylpyrrolidin-2-one (0.046 g, 50%) as a yellow solid: mp 191-193° C.; 1H NMR (CDCl3) δ 2.29 (dd, J=14.5, 7.8 Hz, 1H), 2.96-3.06 (m, 1H), 3.30 (s, 3H), 3.85-3.89 (m, 1H), 4.23 (d, J=7.8 Hz, 1H), 4.50 (d, J=6.5 Hz, 1H), 5.99 (d, J=6.1 Hz, 1H), 6.88 (d, J=3.6 Hz, 1H).

reactant | (±)-(4R*,5R*)-5-[(1S*)Hydroxy(5-phenyl(2-thienyl))methyl]-4-(4-iodophenyl)-1-methylpyrrolidin-2-one | O[C@@H]([C@H]1[C@H](CC(N1C)=O)C1=CC=C(C=C1)I)C=1SC(=CC1)C1=CC=CC=C1 | C22H20INO2S
reactant | 4-flourophenylboronic acid | 0.26 mmol, 0.037 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | DME | 1 mL | COCCOC | C4H10O2
reactant | Na2CO3 | 0.55 mmol, 0.55 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.204 mmol, 0.100 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (±)-(4R*,5R*)-5-[(1S*)hydroxy(5-phenyl(2-thienyl))methyl]-4-[4-(4-fluorophenyl)phenyl]-1-methylpyrrolidin-2-one | 0.046 g, 50% | O[C@@H]([C@H]1[C@H](CC(N1C)=O)C1=CC=C(C=C1)C1=CC=C(C=C1)F)C=1SC(=CC1)C1=CC=CC=C1 | C28H24FNO2S
